US07161016B1
To a magnetically stirred solution of 50 mg (0.17 mmol) of arachidonyl alcohol in 1 mL of pyridine was added 29.2 mg (0.225 mmol) of mesyl chloride at 0° C. After stirring for 5 hours, the reaction mixture was poured into 2 mL of cold water and extracted with diethyl ether (2×4 mL). The combined ether extracts were washed with 1 N sulfuric acid and saturated sodium bicarbonate solution and evaporated in vacuo. The crude mesylate was dissolved in 2 mL of anhydrous DMF, and then a solution of 6.5 mg (0.85 mmol) of sodium azide in 4 mL of anhydrous DMF was added at room temperature. The reaction mixture was heated to 90° C. for 24 hours behind a safety shield. The mixture was cooled to room temperature, inorganic material was filtered off, and the filtrate was poured into 1 mL of cold water. Extraction with diethyl ether (2×6 mL), drying (MgSO4), and evaporation gave an oily residue which was chromatographed on silica gel (petroleum ether) to afford 39 mg (73%) of arachidonyl azide as a colorless oil: 1H NMR (200 MHZ, CDCl3) δ 5.38 (m, 8H), 3.27 (t, J=6 Hz, 2H), 2.81 (m, 6H), 2.11–2.01 (m, 4H), 1.62 (m, 2H), 1.48–1.25 (m, 6H), 0.89 (t, J=7 Hz, 3H).

reactant | arachidonyl alcohol | 0.17 mmol, 50 mg | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)O | C20H34O
reactant | mesyl chloride | 0.225 mmol, 29.2 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | water | 2 mL | O | H2O
reactant | sodium azide | 0.85 mmol, 6.5 mg | [N-]=[N+]=[N-].[Na+]
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | arachidonyl azide | 39 mg, 73% | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)N=[N+]=[N-] | C20H33N3
